US04994452
1,3-Dimethyl-2,3,9,10,11,12-hexahydro-1H-quino[4,3,2-ef][1,4]benzoxazepine
To a solution of lithium aluminum hydride in tetrahydrofuran (1M, 10.0 ml) and dry tetrahydrofuran (30 ml) was added aluminum chloride (1.86 g) in portions, with stirring. The reaction mixture was stirred for five mins and 1,3-dimethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (3.95 g) was added. After stirring for 30 min, ethyl acetate (200 ml) and 10% sodium hydroxide solution (200 ml) were added, and the organic layer was separated, dried over anhydrous magnesium sulfate and concentrated. Recrystallization of the residue from diethyl ether/pentane gave 2.2 g (59%) of product, mp 125°-126.5° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 1.86 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-dimethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 3.95 g | CN1C(C(OC2=C3C1=C1CCCCC1=NC3=CC=C2)C)=O | C17H18N2O2
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 1M, 10.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1,3-Dimethyl-2,3,9,10,11,12-hexahydro-1H-quino[4,3,2-ef][1,4]benzoxazepine | 2.2 g, 59% | CN1CC(OC2=C3C1=C1CCCCC1=NC3=CC=C2)C | C17H20N2O
